US04849422
Grams 5 of 1-(2,3-dihydroxypropyl)homopiperazine and 2.25 g of 2-chloronicotinic acid in 50 ml dioxane were refluxed for 24 hours. The reaction mixture was evaporated to dryness and the residue was purified on column eluting with ethanol:ammonium hydroxyde (95:5). The fractions containing the product were dried and the residue, triturated with acetonitrile, gave 1.3 g of 2-[4-(2,3-dihydroxypropyl)homopiperazin-1-yl]nicotinic acid, melting at 70°-77° C. (with decomposition).

reactant | 1-(2,3-dihydroxypropyl)homopiperazine | OC(CN1CCNCCC1)CO | C8H18N2O2
reactant | 2-chloronicotinic acid | 2.25 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(2,3-dihydroxypropyl)homopiperazin-1-yl]nicotinic acid | 1.3 g | OC(CN1CCN(CCC1)C1=C(C(=O)O)C=CC=N1)CO | C14H21N3O4
